US04367234
5-(2-Methoxy-1-naphthyl)oxazolidine-2,4-dione
By the procedure of Example 12, except that 2.3 rather than 2.0 equivalents of triethylamine were used, ethyl 1-hydroxy-1-(2-methoxy-1-naphthyl)methanecarboximidate (16.5 g., 0.063 mole) in 500 ml. of tetrahydrofuran was converted to crude product. Recrystallization from ethyl acetate/toluene gave purified 5-(2-methoxy-1-naphthyl)oxazolidine-2,4-dione in two crops [7.7 g.; m.p. 199°201° C.; ir (KBr) 1820, 1740 cm-1 ].

reactant | triethylamine | 2.0 equivalents | C(C)N(CC)CC | C6H15N
reactant | ethyl 1-hydroxy-1-(2-methoxy-1-naphthyl)methanecarboximidate | 0.063 mole, 16.5 g | OC(C(OCC)=N)C1=C(C=CC2=CC=CC=C12)OC | C15H17NO3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(2-Methoxy-1-naphthyl)oxazolidine-2,4-dione | COC1=C(C2=CC=CC=C2C=C1)C1C(NC(O1)=O)=O | C14H11NO4
